US04594347
8,9-Difluoro-7-amino-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (2 g) and N-methylpiperazine (4 ml) are suspended in N-methylpyrrolidone (20 ml), and the mixture is heated at 110°-120° C. on an oil bath for 3 hours. After the reaction, the reaction mixture is distilled under reduced pressure, and to the residue is added ethyl acetate. The resulting crystals are separated by filtration and thereto is added water (80 ml), which is regulated to pH 2 with 6N hydrochloric acid, and the mixture is heated at 50° C. and then filtered. The filtrate is concentrated to dryness, and the residue is recrystallized from ethanol-water to give yellow cubic crystals. The crystals are again suspended in water (10 ml) and is dissolved by regulating to pH 12 with a 10% aqueous sodium hydroxide solution and then is regulated to pH 8 with acetic acid. The precipitated crystals are separated by filtration, washed with water and dried to give 8-fluoro-2-methyl-9-(4-methyl-1-piperazinyl)-7-amino-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline- 5-carboxylic acid (1.4 g) as yellow cubic crystals. m.p. 240°-243° C.

reactant | 8,9-Difluoro-7-amino-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 2 g | FC=1C(=C2C(C(=CN3C2=C(C1F)CC3C)C(=O)O)=O)N | C13H10F2N2O3
reactant | N-methylpiperazine | 4 ml | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 10 ml | O | H2O
product | 8-fluoro-2-methyl-9-(4-methyl-1-piperazinyl)-7-amino-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline- 5-carboxylic acid | 1.4 g | FC=1C(=C2C(C(=CN3C2=C(C1N1CCN(CC1)C)CC3C)C(=O)O)=O)N | C18H21FN4O3
